US09034311B2
a) 5-(1-Benzyl-1H-pyrazol-4-yl)-2-methoxy-3-nitropyridine
An oven-dried resealable Schlenk tube was charged with 5-bromo-2-methoxy-3-nitropyridine (3.58 g, 15.36 mmol), 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (5.23 g, 18.43 mmol), potassium carbonate (4.24 g, 30.72 mmol), 1,4-dioxane (50 mL) and water (5 mL). The Schlenk tube was subjected to three cycles of evacuation-backfilling with argon, and tetrakis(triphenylphosphine)palladium(0) (1.77 g, 1.53 mmol) was added. After three further cycles of evacuation-backfilling with argon, the Schlenk tube was sealed and the mixture was stirred and heated in an oil bath to 100° C. After 3 days, the mixture was cooled, filtered through diatomaceous earth (Celite®) and the filter cake was washed with methylene chloride (300 mL). The combined filtrate and washings were concentrated in vacuo and the residue was purified by flash chromatography (20-50% ethyl acetate in hexanes) to give the title compound (3.70 g, 84%) as a yellow solid.

reactant | 5-bromo-2-methoxy-3-nitropyridine | 15.36 mmol, 3.58 g | BrC=1C=C(C(=NC1)OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | 1-benzyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 18.43 mmol, 5.23 g | C(C1=CC=CC=C1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
reactant | potassium carbonate | 30.72 mmol, 4.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.53 mmol, 1.77 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 5 mL | O | H2O
product | 5-(1-Benzyl-1H-pyrazol-4-yl)-2-methoxy-3-nitropyridine | 3.70 g, 84% | C(C1=CC=CC=C1)N1N=CC(=C1)C=1C=C(C(=NC1)OC)[N+](=O)[O-] | C16H14N4O3
